US08420695B2
Step 6: 2-Amino-5-(6-morpholine-4-ylpyridin-3-yl)thiophene-3-carboxamide
5-(6-Morpholin-4-ylpyridin-3-yl)-2-nitrothiophene-3-carboxamide (2.77 g, 8.28 mmol), iron(III) chloride (0.03 g, 0.17 mmol), and hydrazine monohydrate (1.34 ml, 27.3 mmol) were combined in methanol (166 ml) and the reaction mixture was purged with nitrogen. The reaction was heated to 65° C. for 3 hours. After cooling to room temperature, the reaction mixture was filtered and solid was washed with methanol. Silica gel was added to the filtrate and the mixture was concentrated. The residue was purified by column chromatography on silica gel, eluting with ethyl acetate/methanol to give the title compound as an orange solid.

reactant | 5-(6-Morpholin-4-ylpyridin-3-yl)-2-nitrothiophene-3-carboxamide | 8.28 mmol, 2.77 g | N1(CCOCC1)C1=CC=C(C=N1)C1=CC(=C(S1)[N+](=O)[O-])C(=O)N | C14H14N4O4S
reactant | hydrazine monohydrate | 27.3 mmol, 1.34 ml | O.NN
solvent | methanol | 166 ml | CO | CH4O
catalyst | iron(III) chloride | 0.17 mmol, 0.03 g | [Fe](Cl)(Cl)Cl
product | 2-Amino-5-(6-morpholine-4-ylpyridin-3-yl)thiophene-3-carboxamide | NC=1SC(=CC1C(=O)N)C=1C=NC(=CC1)N1CCOCC1 | C14H16N4O2S
